US05489592
1-(3-Chloro-1-propenyl)-2-fluoro-3-(trifluoromethyl)benzene
334 ml of concentrated HCl are added over 10 minutes to a solution of 404.5 g (1.84 mol) of α-ethenyl-2-fluoro-3-(trifluoromethyl)benzenemethanol (prepared according to Example I1) in 3.7 1 of dioxane and the mixture is then heated for 2 h at reflux. 83.5 ml of concentrated HCl are added and the mixture is heated for a further 2 h at reflux.

reactant | HCl | 334 ml | Cl | ClH
reactant | α-ethenyl-2-fluoro-3-(trifluoromethyl)benzenemethanol | 1.84 mol, 404.5 g | C(=C)C(O)C1=C(C(=CC=C1)C(F)(F)F)F | C10H8F4O
reactant | HCl | 83.5 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(3-Chloro-1-propenyl)-2-fluoro-3-(trifluoromethyl)benzene | ClCC=CC1=C(C(=CC=C1)C(F)(F)F)F | C10H7ClF4
